US04954501
6-[3-amino-4-[4-(2-pyrimidyl)-piperazin-1-yl]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone
2.5 g (6.3 mmol) of 6-[3-nitro-4[4-(2-pyrimidyl)-piperazin-1-yl]-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone in 130 ml of methanol are hydrogenated under a hydrogen pressure of 5 bar in the presence of 0.3 g of palladium on active charcoal (10% Pd) at 50° C. for 3 hours. After removal of the catalyst by suction filtration, the filtrate is highly concentrated by evaporation under vacuum and the residue obtained is chromatographed on silica gel, using dichloromethane/methanol (95:5) as solvent. After concentration of the product fractions by evaporation, the residue obtained is crystallized with acetone. 0.70 g (30%) of pale beige crystals, m.p. 220° to 221° C., are obtained.

reactant | 6-[3-nitro-4[4-(2-pyrimidyl)-piperazin-1-yl]-phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 6.3 mmol, 2.5 g | [N+](=O)([O-])C=1C=C(C=CC1N1CCN(CC1)C1=NC=CC=N1)C=1C(CC(NN1)=O)C | C19H21N7O3
reactant | charcoal | C | CH4
solvent | methanol | 130 ml | CO | CH4O
catalyst | palladium | 0.3 g | [Pd] | Pd
product | 6-[3-amino-4-[4-(2-pyrimidyl)-piperazin-1-yl]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 0.70 g, 30% | NC=1C=C(C=CC1N1CCN(CC1)C1=NC=CC=N1)C=1C(CC(NN1)=O)C | C19H23N7O
